US05595988
A mixture of 3-thiopheneethanol methanesulfonate (ester) (0.286 mol), 1,2,4-triazole (0.571 mol) and potassium carbonate (39.47 g) in acetonitrile (1100 ml) was refluxed overnight. The mixture was filtered off and the filtrate was evaporated. The residue was taken up in water and extracted with dichloromethane. The organic layer was dried (MgSO4), filtered off and evaporated. The residue (49.08 g) was purified by column chromatography over silica gel (eluent: CH2Cl2 /CH3OH/NH4OH 99/1/0.1 to 97/3/0.1) (35-70 μm). The pure fractions were collected and evaporated, yielding 42.4 g (83%) of 1-[2-(3-thienyl)ethyl]-1H-1,2,4-triazole (interm. 1).

reactant | 3-thiopheneethanol methanesulfonate | 0.286 mol | CS(=O)(=O)OCCC1=CSC=C1 | C7H10O3S2
reactant | 1,2,4-triazole | 0.571 mol | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 39.47 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 1100 ml | C(C)#N | C2H3N
product | 1-[2-(3-thienyl)ethyl]-1H-1,2,4-triazole | 42.4 g, 83% | S1C=C(C=C1)CCN1N=CN=C1 | C8H9N3S
